US07265130B2
Ethyl 4-amino-1-piperidinecarboxylate (300 mg) and triethylamine (258 mg) were dissolved in 5 ml of dichloromethane. To the mixture, 2 ml of solution of t-butylsulfinyl chloride (222 mg) in dichloromethane was added and the mixture was stirred at room temperature for 4 hours. The solution was partitioned into an aqueous solution of potassium hydrogen sulfate and ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate anhydride. The solvent was removed under reduced pressure and the residue was purified by silica gel chromatography to give 378 mg of 4-t-butylsulfinylamino-1-ethoxycarbonyl piperidine.

reactant | Ethyl 4-amino-1-piperidinecarboxylate | 300 mg | NC1CCN(CC1)C(=O)OCC | C8H16N2O2
reactant | triethylamine | 258 mg | C(C)N(CC)CC | C6H15N
reactant | t-butylsulfinyl chloride | 222 mg | C(C)(C)(C)S(=O)Cl | C4H9ClOS
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-t-butylsulfinylamino-1-ethoxycarbonyl piperidine | 378 mg | C(C)(C)(C)S(=O)NC1CCN(CC1)C(=O)OCC | C12H24N2O3S
